US04041173
0.81 G. of 2-carboxy-9-bromo-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene and 0.32 g. of cuprous chloride were refluxed for 8 hours in 10 ml of N-methylpyrrolidinone. The solution was cooled and added to a solution of 4.4 g. of ferric chloride hexahydrate in 6 ml of water and 3 ml of concentrated hydrochloric acid. The mixture was heated to 90° for 1 hour, then was poured into water and filtered. The residue was recrystallized from aqueous dimethylformamide to afford 2-carboxy-9-chloro-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene, m.p. 258.5°-260°.

reactant | 2-carboxy-9-bromo-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(O)C1=CC2=C(C(C3=C(CC2)C(=CC=C3)Br)=O)C=C1 | C16H11BrO3
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | N-methylpyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 6 ml | O | H2O
product | 2-carboxy-9-chloro-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene | C(=O)(O)C1=CC2=C(C(C3=C(CC2)C(=CC=C3)Cl)=O)C=C1 | C16H11ClO3
